US05972951
7-Methoxy-2,3,4,5-tetrahydro-1H-benzazepine
6-Methoxytetralone (6.86 g, 39 mmol), hydroxylamine hydrochloride (8.15 g, 117 mmol) and sodium acetate trihydrate (25 g, 184 mmol) were stirred at reflux in a mixture of ethanol (200 ml) and water (50 ml) for 45 min, concentrated in vacuo, and diluted with water (200 ml). The white solid (6-methoxytetralone oxide, 7.44 g) was collected and dried. A portion of this (6.31 g, 33 mmol) was stirred in dry THF (150 ml) under argon as lithium aluminium hydride (1.80 g, 47 mmol) was added portionwise. This mixture was stirred at reflux for 3 h, cooled, and treated successively with water (1.5 ml), 10% NaOH (1.5 ml) and water (4.5 ml). The solids were filtered off, and the filtrate was evaporated to give an amber oil. This was chromatographed on silica, eluting with ethyl acetate, giving the title compound (2.96 g, 50%).

reactant | 6-Methoxytetralone | 39 mmol, 6.86 g | COC=1C=C2CCCC(C2=CC1)=O | C11H12O2
reactant | hydroxylamine hydrochloride | 117 mmol, 8.15 g | Cl.NO
reactant | sodium acetate trihydrate | 184 mmol, 25 g | O.O.O.C(C)(=O)[O-].[Na+]
reactant | lithium aluminium hydride | 47 mmol, 1.80 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | NaOH | 1.5 ml | [OH-].[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | water | 50 ml | O | H2O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | water | 4.5 ml | O | H2O
solvent | water | 1.5 ml | O | H2O
product | 7-Methoxy-2,3,4,5-tetrahydro-1H-benzazepine | 2.96 g, 50% | COC=1C=CC2=C(CCCCN2)C1 | C11H15NO
